Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C@@H:1]([CH2:2][CH2:3][N:4]1[CH2:5][CH2:6][CH:7]([c:8]2[cH:9][cH:10][cH:11][c:12]([NH:13][C:14]([CH:15]([CH3:16])[CH3:17])=[O:18])[cH:19]2)[CH2:20][CH2:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[O:28]=[N+:29]([O-:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][c:36]1[OH:37]>>[C@@H:1]([CH2:2][CH2:3][N:4]1[CH2:5][CH2:6][CH:7]([c:8]2[cH:9][cH:10][cH:11][c:12]([NH:13][C:14]([CH:15]([CH3:16])[CH3:17])=[O:18])[cH:19]2)[CH2:20][CH2:21]1)([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[O:37][c:36]1[c:31]([N+:29](=[O:28])[O-:30])[cH:32][cH:33][cH:34][cH:35]1,[OH:101][C@@H:1]([CH2:2][CH2:3][N:4]1[CH2:5][CH2:6][CH:7]([c:8]2[cH:9][cH:10][cH:11][c:12]([NH:13][C:14]([CH:15]([CH3:16])[CH3:17])=[O:18])[cH:19]2)[CH2:20][CH2:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[O:28]=[N+:29]([OH:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][c:36]1[OH:37].c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[C@@H:1]([CH2:2][CH2:3][N:4]1[CH2:5][CH2:6][CH:7]([c:8]2[cH:9][cH:10][cH:11][c:12]([NH:13][C:14]([CH:15]([CH3:16])[CH3:17])=[O:18])[cH:19]2)[CH2:20][CH2:21]1)([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[O:37][c:36]1[c:31]([N+:29](=[O:28])[OH:30])[cH:32][cH:33][cH:34][cH:35]1,Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 37.1), ([37.1, 37], 37), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (37, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1](O)[C:2]([F:3])([F:4])[Cl:5].[NH2:6][C:7](=[O:8])[c:9]1[cH:10][cH:11][cH:12][c:13]([NH2:14])[c:15]1[NH2:16]>>[c:1]1([C:2]([F:3])([F:4])[Cl:5])[nH:14][c:13]2[cH:12][cH:11][cH:10][c:9]([C:7]([NH2:6])=[O:8])[c:15]2[n:16]1,[NH2:6][C:7](=[O:8])[c:9]1[cH:10][cH:11][cH:12][c:13]([NH2:14])[c:15]1[NH2:16].[O:101]=[C:1]([OH:102])[C:2]([F:3])([F:4])[Cl:5].[O:301]=[C:302]([n:303]1[c:304][n:305]cc1)[n:306]2cc[n:307][c:308]2>>[c:1]1([C:2]([F:3])([F:4])[Cl:5])[nH:14][c:13]2[cH:12][cH:11][cH:10][c:9]([C:7]([NH2:6])=[O:8])[c:15]2[n:16]1,imidazole_synthesis,"[(305, 102.1), ([102.1, 102], 102), (102, 302), ([302, 301], 301), (301, [301, 302]), ([302, 303], [303, 304]), ([304, 305], 305), (14, 1), ([1, 101], 101), (101, [101, 1]), ([1, 102], [102, 302]), ([302, 306], [306, 308]), ([308, 307], 307), (307, 14.1), ([14.1, 14], 14), (16, 1), ([1, 101], 101), (101, 16.1), ([16.1, 16], 16), (101, 16.1), ([16.1, 16], [16, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[O:3][c:4]1[cH:9][cH:8][cH:7][cH:6][cH:5]1.[CH3:10][C@H:11]1[CH2:12][O:13][CH2:14][CH2:15][N:16]1[c:17]1[cH:18][c:19]([C:20]2([S:21](=[O:22])(=[O:23])[CH2:24][CH2:25][CH2:26][O:27][CH:28]([F:29])[F:30])[CH2:31][CH2:32]2)[n:33][c:34](-[c:35]2[cH:41][cH:40][c:38]([NH2:39])[cH:37][cH:36]2)[n:42]1>>[C:1](=[O:2])([O:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1)[NH:39][c:38]1[cH:37][cH:36][c:35](-[c:34]2[n:33][c:19]([C:20]3([S:21](=[O:22])(=[O:23])[CH2:24][CH2:25][CH2:26][O:27][CH:28]([F:29])[F:30])[CH2:31][CH2:32]3)[cH:18][c:17]([N:16]3[C@@H:11]([CH3:10])[CH2:12][O:13][CH2:14][CH2:15]3)[n:42]2)[cH:41][cH:40]1,[CH3:10][C@H:11]1[CH2:12][O:13][CH2:14][CH2:15][N:16]1[c:17]1[cH:18][c:19]([C:20]2([S:21](=[O:22])(=[O:23])[CH2:24][CH2:25][CH2:26][O:27][CH:28]([F:29])[F:30])[CH2:31][CH2:32]2)[n:33][c:34](-[c:35]2[cH:36][cH:37][c:38]([NH2:39])[cH:40][cH:41]2)[n:42]1.[Cl:101][C:1](=[O:2])[O:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1>>[C:1](=[O:2])([O:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1)[NH:39][c:38]1[cH:37][cH:36][c:35](-[c:34]2[n:33][c:19]([C:20]3([S:21](=[O:22])(=[O:23])[CH2:24][CH2:25][CH2:26][O:27][CH:28]([F:29])[F:30])[CH2:31][CH2:32]3)[cH:18][c:17]([N:16]3[C@@H:11]([CH3:10])[CH2:12][O:13][CH2:14][CH2:15]3)[n:42]2)[cH:41][cH:40]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(39, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
